US07807677B2
1-Benzyl-3-[(1S)-1-(N′-benzyl-hydrazinocarbonyl)-2,2-dimethyl-propyl]-urea (8)
(L)-tert-Leucine (0.500 g, 3.81 mmol) was dissolved in dioxane (23 mL) and 2M NaOH (6.3 mL, 12.6 mmol) was added. After stirring for 10 min, phenylisocyanate (0.900 mL, 7.29 mmol) was added drop wise to yield a clear solution. The reaction mixture was stirred at room temperature for 18 h and then made acidic by addition of concentrated HCl and thereafter extracted with EtOAc. The organic phase was dried and evaporated to afford (2S)-2-(3-benzyl-ureido)-3,3-dimethyl-butyric acid (0.36 g, 36% yield), which was analysed by NMR and then used without further purification. The general procedure for the preparation of hydrazides described above was then followed using the crude (2S)-2-(3-benzyl-ureido)-3,3-dimethyl-butyric acid (0.646 g, 2.44 mmol), EDAC (0.515 g, 2.67 mmol), HOBT (0.363 g, 2.69 mmol), NMM (0.300 mL, 2.73 mmol), benzylhydrazine×2HCl (0.528 g, 2.71 mmol) and Et3N (0.753 mL, 5.38 mmol). The product was filtered through a short silica column (CHCl3/MeOH, 100:0-95:5) and then used without further purification in the next step.

reactant | (2S)-2-(3-benzyl-ureido)-3,3-dimethyl-butyric acid | 2.44 mmol, 0.646 g | C(C1=CC=CC=C1)NC(N[C@H](C(=O)O)C(C)(C)C)=O | C14H20N2O3
reactant | EDAC | 2.67 mmol, 0.515 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 2.69 mmol, 0.363 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 2.73 mmol, 0.300 mL | CN1CCOCC1 | C5H11NO
reactant | benzylhydrazine | C(C1=CC=CC=C1)NN | C7H10N2
reactant | Et3N | 5.38 mmol, 0.753 mL | CCN(CC)CC | C6H15N
product | 1-Benzyl-3-[(1S)-1-(N′-benzyl-hydrazinocarbonyl)-2,2-dimethyl-propyl]-urea | C(C1=CC=CC=C1)NC(=O)N[C@@H](C(C)(C)C)C(=O)NNCC1=CC=CC=C1 | C21H28N4O2
